Name:  ___     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Generalized aches and weakness
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
The patient is a ___ year-old right-handed woman, G1P0, currently
pregnant at ___, with history of chronic headache and migraine
who presents to ___ with myalgias and generalized malaise, for
whom neurology is consulted due to unsteady gait. History is
obtained from patient via a ___ interpreter. 

Ms. ___ reports she was in her usual state of 
health
until 2 days ago, when she developed myalgias and generalized
malaise. Yesterday, she noted that she felt bilateral weakness 
in
her legs and had difficulty walking. She was seen by ___, at 
which
point she required a walker to ambulate and neurology was
consulted. 

Patient reports hat the legs feel generally weak and denies any
focality or laterality. It is of gradual, not sudden onset. When
asked if this has occurred before, she reports she had a similar
episode in ___ years ago but does not recall any further
details. When asked about sensory symptoms, she initially
reported that she had "numbness" below her knees but clarifies
this to mean "weakness" specifically. Denies any parasthesias,
denies bowel/bladder changes (has chronic constipation). She
reports that she has a constant, low grade holocephalic 
throbbing
headache which is consistent with her baseline headaches. It was
no worse or different in character than her baseline headaches. 

Regarding her headaches, she reports having a daily, constant,
low grade holocephalic headache as described above. It is
associated with photophobia, without phonophobia, nausea or
vomiting. She does not take any medication for them.

Regarding potential triggers for her symptoms, patient reports
multiple significant stressors. She reports that when she is at
school she is not stressed, but at home she is very stressed and
receives poor social support. She does not wish to discuss this
further. She otherwise denies any recent fevers/chills, denies
any recent medications or trauma. 

On neuro ROS, the pt denies loss of vision, blurred vision,
diplopia, dysarthria, dysphagia, lightheadedness, vertigo,
tinnitus or hearing difficulty. Denies difficulties producing or
comprehending speech.  Denies focal weakness, numbness,
parasthesiae. No bowel or bladder incontinence or retention.

On general review of systems, the pt reports myalgias. Denies
recent fever or chills.  No night sweats or recent weight loss 
or
gain. Denies cough, shortness of breath.  Denies chest pain or
tightness, palpitations.  Denies nausea, vomiting, diarrhea,
constipation or abdominal pain.  No recent change in bowel or
bladder habits.  No dysuria.  Denies arthralgias. Denies rash.

 
Past Medical History:
PNC:
- ___ ___ by LMP
- Rh pos/Ab neg/RI/HIV neg/HBsAg neg/GBS unknown
- LR ___
- GLT WNL
- FFS WNL
- Issues: teen pregnancy, family not supportive; FOB supportive 
but not involved
OBHx: G1
PMHx: migraines, anxiety
PSHx: denies
Meds: PNV
 
Social History:
___
Family History:
Denies family history of neurologic disease. 
 
Physical Exam:
Admission Physical Exam 
PE:
___ ___ MHR: 80
___ 10:53 Temp.: 97.7°F
___ 10:53 BP: 92/47 (57)
___ ___ MHR: 99
___: no TTP, ___ strength in ___ and ___ grossly. normal sensation 
to light touch throughout. Assisted to standing at bedside, 
knees wobbly
TAUS: vtx, BPP ___, MVP 6.7
 
Pertinent Results:
___ 12:00PM BLOOD WBC-7.8 RBC-3.18* Hgb-9.1* Hct-27.8* 
MCV-87 MCH-28.6 MCHC-32.7 RDW-12.7 RDWSD-40.6 Plt ___
___ 12:00PM BLOOD Glucose-114* UreaN-6 Creat-0.5 Na-138 
K-4.5 Cl-102 HCO3-21* AnGap-15
___ 12:00PM BLOOD ALT-6 AST-16
___ 12:00PM BLOOD Calcium-9.0 Phos-3.7 Mg-1.9 UricAcd-3.3
___ 02:40PM URINE Color-Straw Appear-Clear Sp ___
___ 02:40PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-LG*
___ 02:40PM URINE RBC-2 WBC-5 Bacteri-NONE Yeast-NONE Epi-5
___ 02:40PM URINE Hours-RANDOM Creat-28 TotProt-5 
Prot/Cr-0.2
___ 10:48PM OTHER BODY FLUID FluAPCR-NEGATIVE 
FluBPCR-NEGATIVE.
.
.
.
EXAMINATION:  MR HEAD W/O CONTRAST ___ MR HEAD (___) 
  
TECHNIQUE:  Sagittal T1 weighted imaging was performed. Axial 
imaging was 
performed with gradient echo, FLAIR, diffusion, and T2 technique 
were then 
obtained. 
MRV images were acquired of the dural venous sinuses with a 
velocity encoding 
gradient of 10 and 30 cm per second. 
  
COMPARISON  None. 
  
FINDINGS:  
  
The brain is normal in volume, signal intensity and morphology.  
There is no evidence of hemorrhage, edema, masses, mass effect, 
midline shift or 
infarction.   The ventricles and sulci are normal in caliber and 

configuration.  The pituitary appears normal.  The 
craniocervical junction 
appears normal.  The orbits appear normal.  Minimal mucosal 
thickening 
involving the paranasal sinuses.  Vascular flow voids are 
preserved.  No 
evidence of pres. 
  
MRV: The internal cerebral veins, basal vein of ___, vein 
___ and 
___ sinus are patent.  The superior sagittal, transverse 
and sigmoid 
sinuses are patent.  The jugular veins appear patent. 
  
IMPRESSION: 
1. Normal intracranial contents. 
2. Normal MRV.  No dural venous sinus thrombosis. 

 
Brief Hospital Course:
On ___, Ms. ___, a ___ G1P0 at 26 weeks and 5 
days was admitted to the antepartum service with generalized 
aches and lower extremity weakness. 

On presentation there was low suspicion for infectious process. 
Initial labs were normal including blood counts, negative 
urinalysis. Exam was notable for difficulty with ambulation 
therefore physical therapy was consulted. She was provided with 
a walker to assist in ambulation; further workup from neurology 
was recommended given acute presentation with bilateral 
presentation. 

Per Neurology recommendation, she had a flu swab drawn which was 
negative. She had respiratory evaluation which was normal with 
NIF -60 and VC 2.2. Neurology evaluation was notable for normal 
respiratory mechanics, functional overlay on motor exam and 
intact reflexes. MRI/MRV was recommended to rule out venous 
sinus thrombosis which was normal with no evidence of 
intracranial pathology. Overall concern was low for acute 
neurologic process and was thought to be due to functional gait 
disorder. 

She continued working with Physical Therapy who recommended 
walker on discharge and home ___ services. Patient was not felt 
to be a candidate for crutches given instability. 

For her history of teen pregnancy, Social Work was consulted who 
arranged supports and outpatient social work. 

On HD#3, patient was ambulating well with a walker and it was 
felt safe for her to be discharged home. She had reassuring 
fetal testing while inpatient. Outpatient care with her primary 
OB was arranged prior to discharge. 

 
Medications on Admission:
Prenatal vitamin, ferrous sulfate and pyridoxine 
 
Discharge Medications:
1.  Prenatal Vitamins 1 TAB PO DAILY  
2.rolling walker
Dx: weakness, difficulty ambulating
Prognosis: good
___: 13 months

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
pregnancy at 27w1d
bilateral lower extremity weakness
functional gait disorder

 
Discharge Condition:
stable

 
Discharge Instructions:
You were admitted to the antepartum service for further 
evaluation of lower extremity weakness. The reason for your 
weakness is uncertain, but may be related to stress. You had 
normal head imaging which is reassuring. Physical therapy met 
with you and recommended outpatient physical therapy at home.

Fetal testing was reassuring while you were here.
 
Followup Instructions:
___